US05387595
Step F) 2-(SR)-Phenyl-3-(SR)-hydroxy-(SR)-cyclohexylacetic acid
A suspension of ca. 700 mg (2.52 mmole) of 2-(SR)-phenyl-3-(SR)-hydroxy-(SR)-cyclohexylmalonic acid in 55 mL of acetonitrile was degassed with nitrogen for 10 min and then 18 mg (0.13 mmole) of copper (I) oxide was added under nitrogen and the mixture was heated at reflux for 40 hr under nitrogen. The solution was cooled and concentrated in vacuo, and the residue was taken up in 50 mL of water containing 0.4 mL of 2N HCl and 45 mL of ether. The layers were separated and the aqueous layer was extracted with 2×50 mL of ether. The pooled organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on 67 g of silica eluting with 1 L of 100:3:0.1 methylene chloride:methanol: acetic acid to provide 530 mg (90%) of a light yellow oil that crystallized on standing.

reactant | 2-(SR)-phenyl-3-(SR)-hydroxy-(SR)-cyclohexylmalonic acid | 2.52 mmole, ca. 700 mg | C1(=CC=CC=C1)C1C(CCCC1O)C(C(=O)O)C(=O)O | C15H18O5
solvent | acetonitrile | 55 mL | C(C)#N | C2H3N
catalyst | copper (I) oxide | 0.13 mmole, 18 mg | [Cu-]=O
product | 2-(SR)-Phenyl-3-(SR)-hydroxy-(SR)-cyclohexylacetic acid | 530 mg, 90% | C1(=CC=CC=C1)C1C(CCCC1O)CC(=O)O | C14H18O3
